US08536165B2
6-(2,6-Difluorophenyl)pyridin-3-amine
In a three neck round bottle flask, to a mixture of 1,3-difluorobenzene (23.24 mmol, 2.29 ml) in THF (30 ml) at −78° C. under argon atmosphere, a solution of n-BuLi (10.2 ml) in THF (2.5M) was added. The mixture was stirred at −78° C. for 30 minutes and then it was heated to −50° C. A solution of ZnCl2 (51 ml) in THF (0.5M) was added drop wise and the mixture was stirred at this temperature for 20 minutes. A solution of 6-bromopyridin-3-amine (11.56 mmol, 2.0 g) in THF (20 ml) and Pd(PPh3)4 (1.16 mmol, 1.3 g) were added respectively and the crude mixture was heated at 40° C. overnight. The solvent was evaporated and the crude mixture was purified by reverse phase chromatography eluting with a water-MeOH/AcN system affording 0.72 g (yield 30%) of the expected product.

reactant | 1,3-difluorobenzene | 23.24 mmol, 2.29 ml | FC1=CC(=CC=C1)F | C6H4F2
reactant | n-BuLi | 10.2 ml | [Li]CCCC
reactant | 6-bromopyridin-3-amine | 11.56 mmol, 2.0 g | BrC1=CC=C(C=N1)N | C5H5BrN2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 2.5M | C1CCOC1 | C4H8O
solvent | THF | 0.5M | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 51 ml | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 1.16 mmol, 1.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(2,6-Difluorophenyl)pyridin-3-amine | 0.72 g, yield 30% | FC1=C(C(=CC=C1)F)C1=CC=C(C=N1)N | C11H8F2N2
